US09233981B1
Step 3. Synthesis of 4-[(4aR,6R,8aS)-2-amino-8a-(2,4-difluorophenyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-6-yl]benzonitrile (31)
N-[(4aR,6R,8aS)-6-(4-Cyanophenyl)-8a-(2,4-difluorophenyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C26) (37 mg, 76 μmol, 1 equiv.) was dissolved in methanol (1.9 mL) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.01 mL, 0.06 mmol, 0.8 equiv) was added. The reaction was stirred at 80° C. for 16 hours. The reaction mixture was diluted with a saturated solution of sodium bicarbonate (10 mL) and extracted with ethyl acetate (3×20 mL). The organics were combined, dried over sodium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel (Gradient: 0% to 50% ethyl acetate in heptane) afforded the product as a white solid. Yield: 27 mg, 91%. LCMS m/z 386.2 [M+H]. 1H NMR (400 MHz, CDCl3) δ 7.64-7.67 (m, 2H), 7.53-7.55 (m, 2H), 7.4 (td, J=9.0, 6.7 Hz, 1H), 6.82-6.95 (m, 2H), 4.73 (dd, J=11.4, 2.2 Hz, 1H), 4.25 (dd, J=11.4, 2.2 Hz, 1H), 4.00 (d, J=11.5 Hz, 1H), 3.11-3.17 (m, 1H), 3.04 (dd, J=12.5, 4.1 Hz, 1H), 2.66 (dd, J=12.5, 2.9 Hz, 1H), 1.95-2.05 (m, 1H), 1.78-1.83 (m, 1H).

reactant | N-[(4aR,6R,8aS)-6-(4-Cyanophenyl)-8a-(2,4-difluorophenyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 76 μmol, 37 mg, 1 equiv. | C(#N)C1=CC=C(C=C1)[C@H]1C[C@@H]2[C@@](N=C(SC2)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F | C27H21F2N3O2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.06 mmol, 0.01 mL, 0.8 equiv | N12CCCCCC2=NCCC1 | C9H16N2
solvent | methanol | 1.9 mL | CO | CH4O
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
product | 4-[(4aR,6R,8aS)-2-amino-8a-(2,4-difluorophenyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-6-yl]benzonitrile | NC=1SC[C@H]2[C@@](N1)(CO[C@H](C2)C2=CC=C(C#N)C=C2)C2=C(C=C(C=C2)F)F | C20H17F2N3OS
